US07678795B2
3-(1-Methyl-1H-pyrrol-2-yl)-6,7,8,9-tetrahydro-5H-cyclohepta[c]pyridazine
light brown solid. MS (EI): 227.2 (M+). Prepared from cycloheptane-1,2-dione, [2-(1-Methyl-1H-pyrrol-2-yl)-2-oxo-ethyl]-phosphonic acid dimethyl ester, hydrazine monohydrate.

reactant | cycloheptane-1,2-dione | C1(C(CCCCC1)=O)=O | C7H10O2
reactant | [2-(1-Methyl-1H-pyrrol-2-yl)-2-oxo-ethyl]-phosphonic acid dimethyl ester | COP(OC)(=O)CC(=O)C=1N(C=CC1)C | C9H14NO4P
reactant | hydrazine monohydrate | O.NN
product | 3-(1-Methyl-1H-pyrrol-2-yl)-6,7,8,9-tetrahydro-5H-cyclohepta[c]pyridazine | CN1C(=CC=C1)C1=CC2=C(N=N1)CCCCC2 | C14H17N3
